US04468402
1.5 Grams of 6-(1-piperazinylcarbonyl)-3,4-dihydrocarbostyril and 1.5 g of triethylamine were suspended in 10 ml of dichloromethane. Under ice-cooled and stirring condition, 1.4 g of p-toluenesulfonylchloride in 10 ml of dichloromethane solution was added dropwise to the suspension and the reaction was continued for additionally 3 hours at a room temperature, further continued for 1 hour under ice-cooled condition. The crystals formed in the reaction mixture were collected by filtration and recrystallized from chloroform-ether to obtain 1.4 g of 6-[4-(p-toluenesulfonyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril. Colorless granular crystals. Melting point: 280°-282° C.

reactant | 6-(1-piperazinylcarbonyl)-3,4-dihydrocarbostyril | N1(CCNCC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C14H17N3O2
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonylchloride | 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-[4-(p-toluenesulfonyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C | C21H23N3O4S
